US08445510B2
4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-1-methyl-1H-pyrazole-3-carbonitrile
To a solution of 4-bromo-1-methyl-1H-pyrazole-3-carboxamide (10.0 mg, 0.0490 mmol) in DMF (2 mL, 20 mmol) was added thionyl chloride (0.1 mL, 1 mmol) at 0° C., and the mixture was allowed to warm to rt. The material was extracted with EtOAc, and washed with sat. NaHCO3 (3×). The organic layer was concentrated in vacuo. 3-[(S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (10.0 mg, 0.0232 mmol), (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride (1.79 mg, 0.00245 mmol), K2CO3 (10.0 mg, 0.0724 mmol) and 4:1 dioxane:H2O (1 mL, 10 mmol) were added, and the mixture was heated in a microwave reactor at 100° C. for 30 min. The solution was used directly for HPLC purification, and the fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.80 (d, J=7.3 Hz, 3H), 3.72 (br. s., 3H), 4.00 (s, 3H), 5.15 (q, J=6.7 Hz, 1H), 6.90 (dd, J=9.1, 4.3 Hz, 1H), 7.05 (t, J=8.8 Hz, 1H), 7.37 (d, J=1.3 Hz, 1H), 7.82 (s, 1H), 7.98 (s, 1H), 8.31 (d, J=2.0 Hz, 1H). MS (ES+): m/z=410.05/412.06 (100/50) [MH+]. HPLC: tR=4.08 min (polar—5 min, ZQ3).

reactant | 4-bromo-1-methyl-1H-pyrazole-3-carboxamide | 0.0490 mmol, 10.0 mg | BrC=1C(=NN(C1)C)C(=O)N | C5H6BrN3O
reactant | DMF | 20 mmol, 2 mL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 1 mmol, 0.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[(S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.0232 mmol, 10.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | K2CO3 | 0.0724 mmol, 10.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 10 mmol, 1 mL | O | H2O
catalyst | (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.00245 mmol, 1.79 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-1-methyl-1H-pyrazole-3-carbonitrile | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2)C)C#N | C21H17ClFN5O
